US05665329
C. Preparation of ethyl 2-(2-nitro-1H-imidazol-1-yl)acetate
To a mixture of 2-nitroimidazole (8 g, 70 mmol) and dry K2CO3 (9.7 g, 70 mmol) in acetone (100 mL) was added ethyl bromoacetate (11.6 g, 70 mmol). The suspension was stirred under N2 atmosphere for 48 h. TLC (silica gel, 40% hexane-ethyl acetate) showed a single UV-visible spot with Rf =0.55. The suspension was filtered and solid was washed with acetone (3×50 mL). The filtrate and the washings were combined and evaporated on a rotary evaporator to afford a thick yellow oil. Yield: 13.9 (99%). MS: 217 (M+NH4)+, 200 (M+H)+.

reactant | 2-nitroimidazole | 70 mmol, 8 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | K2CO3 | 70 mmol, 9.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 70 mmol, 11.6 g | BrCC(=O)OCC | C4H7BrO2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | ethyl 2-(2-nitro-1H-imidazol-1-yl)acetate | [N+](=O)([O-])C=1N(C=CN1)CC(=O)OCC | C7H9N3O4
